US05849757
Ethyl 5-benzyloxy-6,7,8-trifluoro1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate
A 2.35 g (6.77 mmol) portion of ethyl 5,6,7,8-tetrafluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate was dissolved in 20 ml of toluene and mixed with 0.70 ml (6.77 mmol) of benzyl alcohol. After cooling to 0° C., this was further mixed with 280 mg (6.99 mmol) of 60% sodium hydride which has been suspended in 10 ml of toluene, and the mixture was stirred at the same temperature for 2 hours and then at room temperature for 2 hours. After completion of the reaction, the reaction solution was mixed with 10% citric acid and extracted with chloroform (100 ml×2). The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated. The resulting residue was purified by a silica gel column chromatography (hexane:ethyl acetate=1:1) to yield 1.68 g (57%) of the title compound.

reactant | ethyl 5,6,7,8-tetrafluoro-1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | FC1=C2C(C(=CN(C2=C(C(=C1F)F)F)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C15H10F5NO3
reactant | benzyl alcohol | 6.77 mmol, 0.70 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 6.99 mmol, 280 mg | [H-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-benzyloxy-6,7,8-trifluoro1-[(1R,2S)-2-fluorocyclopropyl]-1,4-dihydro-4-oxoquinoline-3-carboxylate | 1.68 g, 57% | C(C1=CC=CC=C1)OC1=C2C(C(=CN(C2=C(C(=C1F)F)F)[C@H]1[C@H](C1)F)C(=O)OCC)=O | C22H17F4NO4
